US03939218
4'-tert-Butyl-2-chloropropiophenone
The procedure of Example 1 was followed for the reaction of 63.5g (0.5 mole) of 2-chloropropionyl chloride with 67g (0.5 mole) of tert-butylbenzene. Obtained after high vacuum concentration was 100g of a clear, yellow liquid product: ir (film) 3.4 (s), 5.9 (s), 6.3 (s), 8.0 (s), 10.5 (s), 11.8 (s) microns: nmr (CDCl3) 7.67 (4H, d of d), 5.21 (1H, q), 1.67 (3H, d), 1.28 (9H, s) ppm. A VPC analysis indicated one pure product.

reactant | 2-chloropropionyl chloride | 0.5 mole, 63.5g | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | tert-butylbenzene | C(C)(C)(C)C1=CC=CC=C1 | C10H14
product | 4'-tert-Butyl-2-chloropropiophenone | C(C)(C)(C)C1=CC=C(C=C1)C(C(C)Cl)=O | C13H17ClO
